US04916145
A solution of 459 mg of 3',4'-dimethoxy-2-ethynyl[1,1'-biphenyl]-4-carboxylic acid in 8 mL of dimethylformamide was cooled in an ice bath and treated with 0.25 mL of triethylamine and 0.38 mL of diphenylphosphoryl azide. After 1 hour. 0.3 mL of (R)alpha-methyl-3-pyridinebutanamine was added and the reaction mixture was allowed to warm to room temperature over 48 hours. The reaction mixture was diluted with ethyl acetate, washed with water and brine, dried and concentrated. The residue was chromatographed over 50 g of silica gel eluting with ethyl acetate and the product was crystallized from ethyl acetate-hexane to give 576 mg of (R)-2-Ethynyl-3',4'-dimethoxy-N-[1-methyl-4-(3-pyridinyl)butyl][1.1'-biphenyl]-4-carboxamide, mp 135°-137° C.

reactant | 3',4'-dimethoxy-2-ethynyl[1,1'-biphenyl]-4-carboxylic acid | 459 mg | COC=1C=C(C=CC1OC)C1=C(C=C(C=C1)C(=O)O)C#C | C17H14O4
reactant | triethylamine | 0.25 mL | C(C)N(CC)CC | C6H15N
reactant | diphenylphosphoryl azide | 0.38 mL | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | (R)alpha-methyl-3-pyridinebutanamine | 0.3 mL | C[C@H](CCCC=1C=NC=CC1)N | C10H16N2
solvent | dimethylformamide | 8 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (R)-2-Ethynyl-3',4'-dimethoxy-N-[1-methyl-4-(3-pyridinyl)butyl][1.1'-biphenyl]-4-carboxamide | 576 mg | C(#C)C1=C(C=CC(=C1)C(=O)N[C@@H](CCCC=1C=NC=CC1)C)C1=CC(=C(C=C1)OC)OC | C27H28N2O3
